US05128355
Part C: Preparation of 3-[1-(4-Nitrobenzyl)-2-butyl-4-chloroimidazol-5-yl]propen-1-ol, E isomer
A solution of 0.5 g of 3-[1-(4-nitrobenzyl)-2-butyl-4-chloroimidazol-5-yl]propenoic acid, ethyl ester, E isomer in 20 mL of THF was cooled with an ice bath, 1.7 mL of 1.5 M diisopropylaluminum hydride (in toluene) was added slowly. The cooling bath was removed and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was then quenched with 3 mL of conc. NH4Cl solution and the mixture was stirred for an additional 30 minutes. During this period an extensive gel-like material formed. The reaction mixture was further diluted with ether and filtered through celite. The filtrate was concentrated and the crude product was purified by flash column chromatography on silica gel (Hexane:EtOAc-1:1 elution). The desired compound was obtained as a thick liquid; NMR (200 MHz, CDCl3): δ 6.5-6.15 (m, 2H); 5.21 (s, 2H); 4.25 (d, 2H), J=4.5 Hz); 2.35 (t, 3H, J=7.4 Hz); 1.68 (m, 2H); 1.34 (m, 2h); 0.86 (t, 3H, J=7.4 Hz).

reactant | 3-[1-(4-nitrobenzyl)-2-butyl-4-chloroimidazol-5-yl]propenoic acid, ethyl ester | 0.5 g | [N+](=O)([O-])C1=CC=C(CN2C(=NC(=C2C=CC(=O)OCC)Cl)CCCC)C=C1 | C19H22ClN3O4
reactant | diisopropylaluminum hydride | 1.5 M, 1.7 mL | [H-].C(C)(C)[Al+]C(C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-[1-(4-Nitrobenzyl)-2-butyl-4-chloroimidazol-5-yl]propen-1-ol | [N+](=O)([O-])C1=CC=C(CN2C(=NC(=C2CC=CO)Cl)CCCC)C=C1 | C17H20ClN3O3
